US07598423B2
Synthesis of 1-(2,6-dihydroxy-biphenyl-3-yl)-ethanone
To a solution of 1-(2,4-dihydroxy-3-iodo-phenyl)-ethanone (1.0 g, 3.59 mmol; 581938, may be prepared as described in G. Batu and R. Stevenson, J. Org. Chem. 1979, 44, 3948) in tetrahydrofuran/water (15 mL/3 mL) at room temperature is added phenyl boronic acid (0.877 g, 7.19 mmol), Pd(dppf)2Cl2 (0.088 g, 0.107 mmol), and cesium hydroxide monohydrate (1.81 g, 10.8 mmol). After stirring for 15 hours, the mixture is filtered through a pad of Celite®, washing with ethyl acetate. The residue is diluted with 30 mL of 1N hydrochloric acid and extracted with ethyl acetate. The combined organic phases are washed with brine; dried over magnesium sulfate; filtered and concentrated under reduced pressure. The resulting residue is purified by flash chromatography, eluting with 30% ethyl acetate/hexanes to give the title compound as a colorless solid: MS (m/z) 228 (M+); 1H NMR (DMSO-d6) δ 13.1 (s, 1H), 10.6 (bs, 1H), 7.81 (d, J=8.8 Hz, 1H), 7.41-7.28 (m, 5H), 6.61 (d, J=8.8 Hz, 1H), 2.58 (s, 3H); Rf=0.58 in 40% ethyl acetate/hexanes.

reactant | 1-(2,4-dihydroxy-3-iodo-phenyl)-ethanone | 3.59 mmol, 1.0 g | OC1=C(C=CC(=C1I)O)C(C)=O | C8H7IO3
reactant | phenyl boronic acid | 7.19 mmol, 0.877 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium hydroxide monohydrate | 10.8 mmol, 1.81 g | O.[OH-].[Cs+]
solvent | tetrahydrofuran water | 15 mL | O1CCCC1.O
catalyst | Pd(dppf)2Cl2 | 0.107 mmol, 0.088 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(2,6-dihydroxy-biphenyl-3-yl)-ethanone | OC1=C(C(=CC=C1C(C)=O)O)C1=CC=CC=C1 | C14H12O3
